US06060485
Preparation of ethyl 2-cyclohexyl-2-hydroxy-phenylacetate (Compound (4))
A solution of Grignard reagent prepared from cyclopentyl bromide (66 g) and magnesium (9 g) in absolute ether (240 ml) was added dropwise to a solution of ethyl phenylglyoxylate (30 g) in absolute ether (100 ml) at gently refluxing temperature. After the addition was completed, the reaction mixture was refluxed for 2 hours. The mixture was added to ice water (200 ml) and 10% diluted sulfuric acid (200 ml). The ether layer was separated from the reaction mixture, and then the aqueous layer was extracted with ether. The combined extracts were washed with water and dried over anhydrous sodium sulfate. The solvent was removed under pressure. The residue was vacuum distilled to obtain the title compound (23.5 g, 53.3%) as a pale yellow oil: bp 148 to 150° C. (6.5 mmHg).

reactant | cyclopentyl bromide | 66 g | C1(CCCC1)Br | C5H9Br
reactant | magnesium | 9 g | [Mg] | Mg
reactant | ethyl phenylglyoxylate | 30 g | C1(=CC=CC=C1)C(C(=O)OCC)=O | C10H10O3
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
reactant | ether | 240 ml | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
product | ethyl 2-cyclohexyl-2-hydroxy-phenylacetate | 23.5 g, 53.3% | C1(CCCCC1)C1(C(C=CC=C1)CC(=O)OCC)O | C16H24O3
